US05679671
3-Azido-1-ethoxycarbonylmethyl-8-phenyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one
While stirring 30 ml of a mixture of 0.75 g (2.70 mmol) of 3-azido-8-phenyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one obtained in the Synthesis Example A-6, 0.093 g (0.288 mmol) of tetran- butylammonium bromide, 0.17 g (3.03 mmol) of powdery potassium carbonate and tetrahydrofuran at room temperature, 0.35 ml (3.16 mmol) of ethyl bromoacetate was added thereto, followed by stirring for 2 hours. After adding ethyl acetate to the reaction mixture, the obtained mixture was washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was subjected to silica gel column chromatography. After eluting with hexane:ethyl acetate in a ratio of 15:1 (v/v), 0.8 g of the title compound was obtained as a pale yellow, oily product. Yield 81%.

reactant | 3-azido-8-phenyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 2.70 mmol, 0.75 g | N(=[N+]=[N-])C1C(NC2=C(CC1)C=CC(=C2)C2=CC=CC=C2)=O | C16H14N4O
reactant | potassium carbonate | 3.03 mmol, 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethyl bromoacetate | 3.16 mmol, 0.35 ml | BrCC(=O)OCC | C4H7BrO2
catalyst | tetran- butylammonium bromide | 0.288 mmol, 0.093 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Azido-1-ethoxycarbonylmethyl-8-phenyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.8 g, Yield 81% | N(=[N+]=[N-])C1C(N(C2=C(CC1)C=CC(=C2)C2=CC=CC=C2)CC(=O)OCC)=O | C20H20N4O3
